US05084466
A mixture of 486 mg of methyl 4-(2-aminoethyl)hydrocinnamate hydrochloride, 672 mg of 4-nitrophenyl-4-guanidino-benzoate hydrochloride, 404 mg of triethylamine and 10 ml of dimethylformamide was stirred at room temperature under argon for 5 hours. The reaction mixture was then evaporated to dryness in vacuo, and the residue was chromatographed on 25 g of MCI gel. 520 mg of amorphous methyl p-[2-(p-guanidinobenzamido)ethyl]hydrocinnamate hydrochloride were obtained. IR bands (KBr) at 3339, 3187, 1727, 1678, 1644, 1579, 1500, 1289, 1107, 852 cm-1.

reactant | methyl 4-(2-aminoethyl)hydrocinnamate hydrochloride | 486 mg | Cl.NCCC1=CC=C(CCC(=O)OC)C=C1
reactant | 4-nitrophenyl-4-guanidino-benzoate hydrochloride | 672 mg | Cl.[N+](=O)([O-])C1=CC=C(C=C1)C1=C(C(=O)O)C=CC(=C1)NC(=N)N
reactant | triethylamine | 404 mg | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | methyl p-[2-(p-guanidinobenzamido)ethyl]hydrocinnamate hydrochloride | 520 mg | Cl.N(C(=N)N)C1=CC=C(C(=O)NCCC2=CC=C(CCC(=O)OC)C=C2)C=C1 | InChI=1S/C20H24N4O3.ClH/c1-27-18(25)11-6-14-2-4-15(5-3-14)12-13-23-19(26)16-7-9-17(10-8-16)24-20(21)22;/h2-5,7-10H,6,11-13H2,1H3,(H,23,26)(H4,21,22,24);1H
